US08871796B2
A solution of n-butyllithium (2.50 Min hexanes, 16.8 mL, 41.9 mmol 1.20 equiv) was added dropwise to a solution of ethyl propiolate (4.11 g, 41.9 mmol, 1.20 equiv) in tetrahydrofuran (350 mL) at −78° C. After stirring for 15 minutes at −78° C., a solution of zinc chloride (1.0 M in diethyl ether, 84 mL, 84 mmol, 2.4 equiv) was added and the cooling bath was removed. After stirring for 2 hours, 3-iodobenzonitrile 8.00 g (34.9 mmol, 1 equiv) and Pd(Ph3P)4 (2.0 g, 1.7 mmol, 0.05 equiv) were added and the reaction mixture was heated to 50° C. After stirring for 90 minutes, the reaction mixture was cooled to 22° C. and filtered. The filtrate was concentrated to ˜½ volume, then was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution and dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography on silica gel (hexanes, grading to 50% ethyl acetate-hexanes) to afford ethyl 3-(3-cyanophenyl)prop-2-ynoate (3.55 g, 51%) as a light-orange solid. Calcd (M+1)+: 200.1. Found: 200.1.

reactant | n-butyllithium | 41.9 mmol, 16.8 mL, 1.20 equiv | C(CCC)[Li]
reactant | ethyl propiolate | 41.9 mmol, 4.11 g, 1.20 equiv | C(C#C)(=O)OCC | C5H6O2
reactant | 3-iodobenzonitrile | 34.9 mmol, 8.00 g, 1 equiv | IC=1C=C(C#N)C=CC1 | C7H4IN
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 84 mmol, 1.0 M, 84 mL, 2.4 equiv | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(Ph3P)4 | 1.7 mmol, 2.0 g, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(3-cyanophenyl)prop-2-ynoate | 3.55 g, 51% | C(#N)C=1C=C(C=CC1)C#CC(=O)OCC | C12H9NO2
